US06982348B2
1) ethyl (E)-4,4-dimethyl-5-phenyl-2-pentenoate
A suspension (17.8 g, 445 mmol) of 60% sodium hydride in liquid paraffin was suspended in toluene (300 ml), and a solution of ethyl diethylphosphonoacetate (99.8 g, 445 mmol) in toluene (50 ml) was added at room temperature. The mixture was stirred for 30 min. A solution of 2,2-dimethyl-3-phenylpropanal (see Tetrahedron Lett., 1273-1275 (1973)) (60.16 g, 370.8 mmol) in toluene (50 ml) was dropwise added, and the mixture was stirred at room temperature for 2 hrs. The reaction solution was poured into water, and the mixture was extracted twice with diethyl ether. The recovered organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=20/1-9/1) to give the objective substance.

reactant | sodium hydride | 445 mmol, 17.8 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 445 mmol, 99.8 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2,2-dimethyl-3-phenylpropanal | 370.8 mmol, 60.16 g | CC(C=O)(CC1=CC=CC=C1)C | C11H14O
reactant | water | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl (E)-4,4-dimethyl-5-phenyl-2-pentenoate | CC(/C=C/C(=O)OCC)(CC1=CC=CC=C1)C | C15H20O2
